US09376418B2
A mixture of trans-butyl 4-(1-(5-chloropyridin-2-yl)-1-hydroxyethyl)cyclohexanecarboxylate (110 mg, 0.324 mmol), 4-cyclopropyl-N-[3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]pyrimidin-2-amine (114 mg, 0.324 mmol), BrettPhos Precatalyst (13.0 mg, 0.016 mmol), BrettPhos (18.0 mg, 0.034 mmol) and sodium carbonate (330 μl, 0.660 mmol) in dioxane (1618 μl) was heated to 100° C. for 2 hours. The reaction mixture was cooled to room temperature and TFA (0.5 mL) was added. The reaction mixture was purified directly by preparative HPLC Reverse phase (C-18), eluting with Acetonitrile/Water+0.1% TFA (45-80%). The major peak was collected and lyophilized to give trans-butyl 4-(1-(5-(3-(4-cyclopropylpyrimidin-2-ylamino)-5-methylphenyl)pyridin-2-yl)-1-hydroxyethyl)cyclohexanecarboxylate as a colorless solid. MS ESI calc'd for C32H41N4O3 [M+H]+ 529. found 529.

reactant | trans-butyl 4-(1-(5-chloropyridin-2-yl)-1-hydroxyethyl)cyclohexanecarboxylate | 0.324 mmol, 110 mg | ClC=1C=CC(=NC1)C(C)(O)[C@@H]1CC[C@H](CC1)C(=O)OCCCC | C18H26ClNO3
reactant | 4-cyclopropyl-N-[3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]pyrimidin-2-amine | 0.324 mmol, 114 mg | C1(CC1)C1=NC(=NC=C1)NC1=CC(=CC(=C1)B1OC(C(O1)(C)C)(C)C)C | C20H26BN3O2
reactant | BrettPhos | 0.034 mmol, 18.0 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC(=C2P(C3CCCCC3)C4CCCCC4)OC)OC)C(C)C | C35H53O2P
reactant | sodium carbonate | 0.660 mmol, 330 μl | C([O-])([O-])=O.[Na+].[Na+]
reactant | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
catalyst | BrettPhos Precatalyst | 0.016 mmol, 13.0 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC(=C2P(C3CCCCC3)C4CCCCC4)OC)OC)C(C)C.C1=CC=C([C-]=C1)CCN.Cl[Pd+]
solvent | dioxane | 1618 μl | O1CCOCC1 | C4H8O2
product | trans-butyl 4-(1-(5-(3-(4-cyclopropylpyrimidin-2-ylamino)-5-methylphenyl)pyridin-2-yl)-1-hydroxyethyl)cyclohexanecarboxylate | C1(CC1)C1=NC(=NC=C1)NC=1C=C(C=C(C1)C)C=1C=CC(=NC1)C(C)(O)[C@@H]1CC[C@H](CC1)C(=O)OCCCC | C32H40N4O3
